US05811389
A solution of 0.52 g (0.8 mmol) of N-(9H-fluoren-9-ylmethoxycarbonyl)-L-isoleucyl-O-tert-butyl-L-tyrosyl-L-alanine in 20 ml of dimethylformamide was cooled to 0° and treated with 0.45 g (0.8 mmol) of benzyl 5-aminomethyl-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate trifluoroacetate and with 0.45 g (1.2 mmol) of O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate. Thereafter, 0.31 g (2.4 mmol) of ethyldiisopropylamine was added, whereupon the reaction mixture obtained was warmed from 0° to room temperature within 3 hours and concentrated. The residue remaining was taken up in chloroform, whereupon the solution obtained was washed with water and dried over magnesium sulphate. After chromatography over silica gel (chloroform) 0.77 g of benzyl 3,6-dimethoxy-9,9-dimethyl-5-[(N-(9H-fluoren-9-ylmethoxycarbonyl)-L-isoleucyl-O-tert-butyl-L-tyrosyl-L-alanyl)aminomethyl]xanthene-4-acetate of m.p. 218°-220° was obtained; IR 1728, 1662, 1606, 1503, 1492 cm-1.

reactant | N-(9H-fluoren-9-ylmethoxycarbonyl)-L-isoleucyl-O-tert-butyl-L-tyrosyl-L-alanine | 0.8 mmol, 0.52 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](C)C(=O)O | C37H45N3O7
reactant | benzyl 5-aminomethyl-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate trifluoroacetate | 0.8 mmol, 0.45 g | FC(C(=O)O)(F)F.NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 1.2 mmol, 0.45 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | ethyldiisopropylamine | 2.4 mmol, 0.31 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzyl 3,6-dimethoxy-9,9-dimethyl-5-[(N-(9H-fluoren-9-ylmethoxycarbonyl)-L-isoleucyl-O-tert-butyl-L-tyrosyl-L-alanyl)aminomethyl]xanthene-4-acetate | COC=1C=CC=2C(C3=CC=C(C(=C3OC2C1CC(=O)OCC1=CC=CC=C1)CNC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)[C@@H](C)CC)=O)CC1=CC=C(C=C1)OC(C)(C)C)=O)C)=O)OC)(C)C | C64H72N4O11
